US08211908B2
To a suspension of 0.22 g of 1-(2-(4-aminopiperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one hydrochloride in 7 mL of methanol, 66 mg of sodium cyanoborohydride, 64 μL of 3-fluoro-4-methylbenzaldehyde, 0.30 g of a 28% sodium methoxide/methanol solution and 30 μL of acetic acid were added, and the mixture was stirred at room temperature for 3 hours. Thereto was added 22 mg of 3-fluoro-4-methylbenzaldehyde, and the mixture was stirred at the same temperature for 1 hour. Thereto was further added 33 mg of sodium cyanoborohydride, and the mixture was stirred at the same temperature for 1 hour. A saturated aqueous sodium hydrogen carbonate solution was added thereto, and the solvent was distilled off under reduced pressure. Thereto was added chloroform, the organic layer was separated, and the aqueous layer was extracted with chloroform. The organic layer and the extract were combined, the resultant solution was washed sequentially with water and a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by basic silica gel column chromatography using an eluent of chloroform:methanol=9:1 to obtain 20 mg of 1-(2-(4-((3-fluoro-4-methylbenzyl)amino)piperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one as a colorless oily substance.

reactant | 1-(2-(4-aminopiperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one hydrochloride | 0.22 g | Cl.NC1CCN(CC1)CCN1C(C=CC2=NC=C(C=C12)OC)=O
reactant | sodium cyanoborohydride | 66 mg | C(#N)[BH3-].[Na+]
reactant | 3-fluoro-4-methylbenzaldehyde | 64 μL | FC=1C=C(C=O)C=CC1C | C8H7FO
reactant | sodium methoxide methanol | C[O-].[Na+].CO
reactant | 3-fluoro-4-methylbenzaldehyde | 22 mg | FC=1C=C(C=O)C=CC1C | C8H7FO
reactant | sodium cyanoborohydride | 33 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 7 mL | CO | CH4O
solvent | acetic acid | 30 μL | C(C)(=O)O | C2H4O2
product | 1-(2-(4-((3-fluoro-4-methylbenzyl)amino)piperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one | 20 mg | FC=1C=C(CNC2CCN(CC2)CCN2C(C=CC3=NC=C(C=C23)OC)=O)C=CC1C | C24H29FN4O2
